US09215876B2
Attempted Preparation of Pentamethylene Carbonate (PMC)
Cyclizations of the above diols were also attempted using ethyl chloroformate, and bis(pentafluorophenyl) carbonate (PFC). Table 7 summarizes the results.

reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
reactant | bis(pentafluorophenyl) carbonate | C(OC1=C(C(=C(C(=C1F)F)F)F)F)(OC1=C(C(=C(C(=C1F)F)F)F)F)=O | C13F10O3
product | Pentamethylene Carbonate | C1(OCCCCCO1)=O | C6H10O3
